US07678815B2
(6-Hydroxymethyl-pyridin-2-yl)-carbamic acid tert-butyl ester (0.85 g, 3.79 mmol) was dissolved in dichloromethane (30.00 ml) and triethylamine (1.32 ml) and treated with dimethylaminopyridine (0.09 g, 0.76 mmol) and acetic anhydride (0.43 g, 4.17 mmol). The mixture was stirred at room temperature for 10 min, then partitioned between water and dichloromethane. The organic layer was dried over sodium sulphate and evaporated. The residue was purified by flash chromatography (heptane/ethyl acetate) to yield acetic acid 6-tert-butoxycarbonylamino-pyridin-2-ylmethyl ester (0.85 g, 84%) as a white solid, MS (ISP): m/e=267.1 (M+H+).

reactant | (6-Hydroxymethyl-pyridin-2-yl)-carbamic acid tert-butyl ester | 3.79 mmol, 0.85 g | C(C)(C)(C)OC(NC1=NC(=CC=C1)CO)=O | C11H16N2O3
reactant | triethylamine | 1.32 ml | C(C)N(CC)CC | C6H15N
reactant | dimethylaminopyridine | 0.76 mmol, 0.09 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | acetic anhydride | 4.17 mmol, 0.43 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 30.00 ml | ClCCl | CH2Cl2
product | acetic acid 6-tert-butoxycarbonylamino-pyridin-2-ylmethyl ester | 0.85 g, 84% | C(C)(C)(C)OC(=O)NC1=CC=CC(=N1)COC(C)=O | C13H18N2O4
